US06953785B2
In a manner similar to that in Reference Example 1, 4-amino-1-butanol was reacted with tert-butyldimethylsilyl chloride in the presence of imidazole to give 4-(tert-butyldimethylsilyloxy)-1-butylamine.

reactant | 4-amino-1-butanol | NCCCCO | C4H11NO
reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 4-(tert-butyldimethylsilyloxy)-1-butylamine | [Si](C)(C)(C(C)(C)C)OCCCCN | C10H25NOSi
